US07825253B2
(2-Methoxy-benzyl)-(5-phenyl-quinolin-2-yl)-amine
(5-Bromo-quinolin-2-yl)-(2-methoxy-benzyl)-amine (200 mg, 0.583 mmol) was dissolved in 8 mL 1,2-dimethoxyethane and 4 mL 1M sodium carbonate solution. The reaction mixture was evacuated and backfilled with argon for three times to remove oxygen. Phenylboronic acid (88 mg, 0.699 mmol), palladium(II)acetate (7 mg, 0.029 mmol) and triphenylphosphine (16 mg, 0.058 mmol) were added. The reaction mixture was refluxed overnight. The reaction mixture was poured into 100 mL water and extracted three times with ethyl acetate (100 mL each). The combined organic extracts were dried with sodium sulfate, filtered and evaporated. The residue purified by flash chromatography on silica gel (cyclohexane/ethyl acetate 100:0->80:20 gradient). The title compound was obtained as a white solid (191 mg, 96%), MS: m/e=341.3 (M+H+).

reactant | (5-Bromo-quinolin-2-yl)-(2-methoxy-benzyl)-amine | 0.583 mmol, 200 mg | BrC1=C2C=CC(=NC2=CC=C1)NCC1=C(C=CC=C1)OC | C17H15BrN2O
reactant | Phenylboronic acid | 0.699 mmol, 88 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triphenylphosphine | 0.058 mmol, 16 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 100 mL | O | H2O
solvent | 1,2-dimethoxyethane | 8 mL | COCCOC | C4H10O2
solvent | sodium carbonate | 1M, 4 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium(II)acetate | 0.029 mmol, 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (2-Methoxy-benzyl)-(5-phenyl-quinolin-2-yl)-amine | COC1=C(CNC2=NC3=CC=CC(=C3C=C2)C2=CC=CC=C2)C=CC=C1 | C23H20N2O
